US06924278B2
To a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]methyl]piperazine (152 mg) in ethyl acetate (2 ml) was added triethylamine (0.048 ml) and methanesulfonyl chloride (0.027 ml) at room temperature. After stirring for 10 minutes, the mixture was quenched with water and extracted with ethyl acetate. The combined extracts were washed with water and brine successively, dried over magnesium sulfate, and evaporated under reduced pressure. The obtained residue was dissolved with N,N-dimethylformamide (2 ml) and added morpholine (0.028 ml), potassium carbonate (74 mg) and potassium iodide (13 mg). After stirring at 70° C. for 6 hours, the mixture was quenched with water and extracted with ethyl acetate. The combined extracts were washed with water and brine successively, dried over magnesium sulfate, and evaporated under reduced pressure. The obtained residue was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate (0.2 ml) at room temperature. The mixture was added hexane, filtered, and dried over reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(2-morpholinoethyl)-1H-pyrazol-4-yl]methyl]piperazine dihydrochloride (188.7 mg) as a solid.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]methyl]piperazine | 152 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CCO)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H30F6N4O2
reactant | triethylamine | 0.048 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.027 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(2-morpholinoethyl)-1H-pyrazol-4-yl]methyl]piperazine dihydrochloride | 188.7 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CCN2CCOCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H37F6N5O2.2ClH/c1-22-3-4-24(13-23(22)2)14-29-21-41(19-25-18-39-42(20-25)7-5-40-9-11-45-12-10-40)6-8-43(29)30(44)26-15-27(31(33,34)35)17-28(16-26)32(36,37)38;;/h3-4,13,15-18,20,29H,5-12,14,19,21H2,1-2H3;2*1H/t29-;;/m1../s1
